US08604029B2
A mixture of 2-hydroxy-4,6-dimethylpyridine (1.7 g, 13.8 mmol), potassium carbonate (3.82 g, 27.6 mmol) and 1-(2-bromo-ethoxy)-4-nitro-benzene (4.0 g, 16.6 mmol) in DMF (30 mL) was heated to 120° C. and maintained for 15 h. The mixture was cooled to ambient temperature, filtered and concentrated to give a residue which was purified by column chromatography using 4% ethyl acetate/petroleum ether as eluent to afford 2,4-dimethyl-6-[2-(4-nitro-phenoxy)-ethoxy]-pyridine as yellow solid (530 mg, 11%)

reactant | 2-hydroxy-4,6-dimethylpyridine | 13.8 mmol, 1.7 g | OC1=NC(=CC(=C1)C)C | C7H9NO
reactant | potassium carbonate | 27.6 mmol, 3.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-bromo-ethoxy)-4-nitro-benzene | 16.6 mmol, 4.0 g | BrCCOC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2,4-dimethyl-6-[2-(4-nitro-phenoxy)-ethoxy]-pyridine | 530 mg, 11% | CC1=NC(=CC(=C1)C)OCCOC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N2O4
